US09108939B2
F: 1-(Cyclopropylmethyl)-3-(1-(1-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperidin-4-yl)-1H-indol-6-yl)urea
2-(4-((4-(6-Amino-1H-indol-1-yl)piperidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol (0.350 mmol, 0.165 g) and 4-nitrophenyl carbonochloridate (0.350 mmol, 0.071 g) were combined and stirred in tetrahydrofuran (2 mL) for 1 hour. Cyclopropylmethanamine (0.700 mmol, 0.061 mL, 0.050 g) was added and the reaction stirred at room temperature for 2 hours. The organic phase was washed with water and dried over sodium sulfate. The solvent was removed and the resulting residue was purified by silica chromatography (eluting with a solvent gradient from dichloromethane to 3% methanol/dichloromethane) to afford the title compound (24 mg). MS (ESI) m/z 569.2 [M+H]+

reactant | 2-(4-((4-(6-Amino-1H-indol-1-yl)piperidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 0.350 mmol, 0.165 g | NC1=CC=C2C=CN(C2=C1)C1CCN(CC1)CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C23H23F6N3O
reactant | 4-nitrophenyl carbonochloridate | 0.350 mmol, 0.071 g | C(OC1=CC=C(C=C1)[N+](=O)[O-])(=O)Cl | C7H4ClNO4
reactant | Cyclopropylmethanamine | 0.700 mmol, 0.061 mL, 0.050 g | C1(CC1)CN | C4H9N
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 1-(Cyclopropylmethyl)-3-(1-(1-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperidin-4-yl)-1H-indol-6-yl)urea | 24 mg | C1(CC1)CNC(=O)NC1=CC=C2C=CN(C2=C1)C1CCN(CC1)CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C28H30F6N4O2
